* Z:\mnt\DATA\Cursussen\Courses\ASMPT\Session-2\SLiCAP\cir\ExNoiseFigureAmp.asc
V1 N001 0 V value=0 dc=0 dcvar=0 noise={4*k*T*R_s}
R1 N002 N001 {R_s}
I1 out 0 I value=0 dc=0 dcvar=0 noise={S_i}
V2 out N002 V value=0 dc=0 dcvar=0 noise={S_v}
.param S_i=9e-24 S_v=4e-18 R_s=600
.backanno
.end
